US09428469B2
N3-(4-bromo-3-chloro-5-(trifluoromethyl)phenyl)-N5-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazole-3,5-diamine (Compound 1)
A solution of N3-(4-bromo-3-chloro-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 1 (50 mg, 140 μmol) and 4-(trifluoromethyl)benzaldehyde (48.8 mg, 280 μmol) in MeOH (3 ml) was stirred at room temperature for 2 days, NaBH4 (31.8 mg, 841 μmol) was added and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was re-dissolved in DCM and was washed with water (2×4 ml), dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 24 g, 3% to 5% MeOH in DCM) and recrystallized from DCM to give a light yellow powder as desired product (53 mg, 73% yield). MS +m/z: 514 (M+H)+

reactant | N3-(4-bromo-3-chloro-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazole-3,5-diamine | BrC1=C(C=C(C=C1C(F)(F)F)NC1=NNC(=N1)N)Cl | C9H6BrClF3N5
reactant | 4-(trifluoromethyl)benzaldehyde | 280 μmol, 48.8 mg | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | NaBH4 | 841 μmol, 31.8 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | N3-(4-bromo-3-chloro-5-(trifluoromethyl)phenyl)-N5-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazole-3,5-diamine | 53 mg, 73% yield | BrC1=C(C=C(C=C1C(F)(F)F)NC1=NNC(=N1)NCC1=CC=C(C=C1)C(F)(F)F)Cl | C17H11BrClF6N5
